US06057311
a. (R/S)-1-(1-adamantyl)methyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole
Trifluoroacetic acid (443 μl, 5.8 mmol) was added to a solution of tryptamine (5.76 g, 36 mmol) and 1-adamantylacetaldehyde (6.52 g, 36.6 mmol) in dry DCM (450 ml) wth 3A molecular sieves (46.5 g) at 0° C. The reaction mixture was stirred at 0° C. for 2 hours, followed by the addition of trifluoroacetic acid (5.76 ml, 74.8 mmol) then allowed to warm to room temperature and stirring continued for a further 16 hours. The resultant suspension was concentrated in vacuo, taken up in ethyl acetate (200 ml), filtered, washed successively with saturated NaHCO3 solution (200 ml), brine (2×200 ml) and dried (MgSO4). Filtration and evaporation of the solvent gave the crude product as an orange foam which was used without further purification. (10.95 g, 95%).

reactant | Trifluoroacetic acid | 5.8 mmol, 443 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | tryptamine | 36 mmol, 5.76 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | 1-adamantylacetaldehyde | 36.6 mmol, 6.52 g | C12(CC3CC(CC(C1)C3)C2)CC=O | C12H18O
reactant | trifluoroacetic acid | 74.8 mmol, 5.76 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 450 ml | C(Cl)Cl | CH2Cl2
product | (R/S)-1-(1-adamantyl)methyl-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | C12(CC3CC(CC(C1)C3)C2)CC2NCCC3=C2NC2=CC=CC=C32 | C22H28N2
